US09315458B2
C) 1-(4-(chloromethyl)-3-fluorophenyl)-1H-pyrazole
To a solution of (2-fluoro-4-(1H-pyrazol-1-yl)phenyl)methanol (0.71 g) in THF (15.0 mL) was added thionyl chloride (0.40 mL) under ice-cooling, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, saturated aqueous sodium bicarbonate was added thereto, and the mixture was partitioned. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.50 g).

reactant | (2-fluoro-4-(1H-pyrazol-1-yl)phenyl)methanol | 0.71 g | FC1=C(C=CC(=C1)N1N=CC=C1)CO | C10H9FN2O
reactant | thionyl chloride | 0.40 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(4-(chloromethyl)-3-fluorophenyl)-1H-pyrazole | 0.50 g | ClCC1=C(C=C(C=C1)N1N=CC=C1)F | C10H8ClFN2
